US04011333
To 20.4 g (0.06 mole) of 5-tetradecyloxy-2-thiophenecarboxylic acid in 500 ml of methanol is added 5.4 g (0.10 mole) of sodium methoxide. The mixture is refluxed, and the methanol is distilled off being replaced by water. The aqueous solution is cooled, the precipitate collected, and dried to give 5-tetradecyloxy-2-thiophenecarboxylic acid sodium salt.

reactant | 5-tetradecyloxy-2-thiophenecarboxylic acid | 0.06 mole, 20.4 g | C(CCCCCCCCCCCCC)OC1=CC=C(S1)C(=O)O | C19H32O3S
reactant | sodium methoxide | 0.10 mole, 5.4 g | C[O-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | 5-tetradecyloxy-2-thiophenecarboxylic acid sodium salt | [Na+].C(CCCCCCCCCCCCC)OC1=CC=C(S1)C(=O)[O-] | InChI=1S/C19H32O3S.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-16-22-18-15-14-17(23-18)19(20)21;/h14-15H,2-13,16H2,1H3,(H,20,21);/q;+1/p-1
